US03983133
To a mixture of 26 parts of 2-{N-[o-chloro-α-(nitromethyl)benzyl]amino}ethanol hydrochloride and 2 parts of Raney-Nickel catalyst is added 120 parts of methanol (cooled in a mixture of methaol/carbon dioxide), followed by the addition of 20 parts of carbon dioxide. The whole is hydrogenated at 50 lbs./sq. inch pressure over 2 hours. The catalyst is filtered off and the filtrate is acidified with an excess of 2-propanol previously saturated with gaseous hydrogen chloride. The precipitated salt is filtered off, washed with methanol and dried, yielding 2-{N-[α-(aminomethyl)-o-chlorobenzyl]amino}ethanol dihydrochloride.

reactant | 2-{N-[o-chloro-α-(nitromethyl)benzyl]amino}ethanol hydrochloride | Cl.ClC1=C(C(C[N+](=O)[O-])NCCO)C=CC=C1
reactant | carbon dioxide | C(=O)=O | CO2
catalyst | Raney-Nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | 2-{N-[α-(aminomethyl)-o-chlorobenzyl]amino}ethanol dihydrochloride | Cl.Cl.NCC(C1=C(C=CC=C1)Cl)NCCO | InChI=1S/C10H15ClN2O.2ClH/c11-9-4-2-1-3-8(9)10(7-12)13-5-6-14;;/h1-4,10,13-14H,5-7,12H2;2*1H
